US06670332B1
DMRIE-Ox (300 mg) was dissolved in 7 mL chloroform and washed with 3 mL 1N HCl. The organic phase was dried with MgSO4, then filtered into a reaction vessel. The solution was placed in an ice-water bath and N-hydrosuccinimide (82 mg) then dicyclohexylcarbodiimide(1.3 mL of a 0.5 M solution in dichloromethane) were added and the reaction was allowed to stir with warming for 8 hours. At this time propyl amine (40 mg) was added as a neat liquid and the reaction allowed to stir at room temperature overnight. The reaction was filtered, then evaporated. Chromatography of the filtrate residue through silica gel with CHCl3:MeOH:NH4OH:H2O (90:10:0.25:0.25) afforded pure product.

reactant | DMRIE | CCCCCCCCCCCCCCOCC(C[N+](C)(C)CCO)OCCCCCCCCCCCCCC.[Br-]
reactant | chloroform | 7 mL | C(Cl)(Cl)Cl | CHCl3
product | CHCl3 MeOH NH4OH H2O | C(Cl)(Cl)Cl.CO.[NH4+].[OH-].O | InChI=1S/CHCl3.CH4O.H3N.2H2O/c2-1(3)4;1-2;;;/h1H;2H,1H3;1H3;2*1H2
